US04112086
To a solution of 10.42 g (0.019 mol) of 7-amino-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester and 3.9 g (0.019 mol) of 2,2,2-trifluoroethylsulfonylacetic acid in tetrahydrofuran is added dropwise a solution of 3.9 g (0.019 mol) of dicyclohexylcarbodiimide in 100 ml of tetrahydrofuran. The reaction mixture is stirred at 25° for 12 hours, then filtered and concentrated to about 10 ml. The residue is filtered and evaporated to dryness to give 7β-(2,2,2-trifluoroethylsulfonylacetamido)-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester.

reactant | 7-amino-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester | 0.019 mol, 10.42 g | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C(OCC)(SC2=NN=NN2)CP(=O)OC(C)(C)C | C20H33N6O6PS2
reactant | 2,2,2-trifluoroethylsulfonylacetic acid | 0.019 mol, 3.9 g | FC(CS(=O)(=O)CC(=O)O)(F)F | C4H5F3O4S
reactant | dicyclohexylcarbodiimide | 0.019 mol, 3.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7β-(2,2,2-trifluoroethylsulfonylacetamido)-3-(1-ethoxy-t-butoxyphosphinylmethyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CS(=O)(=O)CC(F)(F)F)=O)=O)C(OCC)(SC2=NN=NN2)CP(=O)OC(C)(C)C | C24H36F3N6O9PS3
